US03939159
A stirred solution of 33.5 g (0.154 mole) of 1-(4-methoxy-2-nitrophenyl)pyrrole in 684 ml. of tetrahydrofuran and 340 ml. of water is treated according to the manipulative procedure described in Example 13(b) to give 1-(2-amino-4-methoxyphenyl)pyrrole, m.p. 42°-43° C.

reactant | 1-(4-methoxy-2-nitrophenyl)pyrrole | 0.154 mole, 33.5 g | COC1=CC(=C(C=C1)N1C=CC=C1)[N+](=O)[O-] | C11H10N2O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-amino-4-methoxyphenyl)pyrrole | NC1=C(C=CC(=C1)OC)N1C=CC=C1 | C11H12N2O
